US05081112
Test for determining inhibitory effect in biosynthetic pathway of cholesterol
The whole mixture was incubated at 37° C. for 90 minutes, then the reaction was terminated by adding 1 mM of 15%-KOH (a 95% ethanol solution), next 2 mg of cholesterol was added thereto, saponified at 75° C. for 1 hour, and cholesterol was extracted with petroleum ether, the extract was concentrated to dryness. To the residue thus obtained was added with 2.5 ml of a mixture of acetone-diethyl ether (1:1) and 2.5 ml of 1%-digitonin (a 50% ethanol solution), then this solution was allowed to stand for 1 hour in cooling condition by using ice-water to precipitate cholesterol. The precipitate was washed with acetone, a mixture of acetonediethyl ether (1:1) and diethyl ether in this order, then the radioactivity of the residue was measured by using a liquid scintillation counter.

reactant | acetone diethyl ether | CC(=O)C.C(C)OCC
reactant | digitonin | C[C@@H]1CC[C@@]2([C@H]([C@H]3[C@@H](O2)[C@H]([C@@H]4[C@@]3(CC[C@H]5[C@H]4CC[C@@H]6[C@@]5(C[C@H]([C@@H](C6)O[C@H]7[C@@H]([C@H]([C@H]([C@H](O7)CO)O[C@H]8[C@@H]([C@H](C([C@H](O8)CO)O)O[C@H]9[C@@H]([C@H]([C@@H](CO9)O)O)O)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O)C)C)O)C)OC1 | C56H92O29
solvent | ethanol | C(C)O | C2H6O
product | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
